US07612067B2
G. 8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine-3-yl boronic acid.
In an oven dried nitrogen purged 3 neck 50 mL round bottom flask, 1.00 g (2.91 mmol) of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine in 60 mL of dry THF is cooled to −78° C. 4.12 mL (7.00 mmol) of 1.7 M tert-butyllithium in hexanes is added and reaction is stirred at −78° C. for 1 hour. 0.818 mL (7.30 mmol) of trimethyl borate is added and reaction is followed by MS and TLC (1:1 Hexane:EA) Indication of product is observed by mass spectrum. The reaction is allowed to stir for an additional hour, quenched with 1 N hydrochloric acid, and diluted with ethyl acetate. The organic layer is separated, and the aqueous layer is extracted three times with 100 mL of ethyl acetate. The extracts are combined, dried over MgSO4, filtered, and concentrated. The reaction residue is triturated in hexanes and a solid is filter off. MS, ES+=262.2 (M+1).

reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.91 mmol, 1.00 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | tert-butyllithium | 7.00 mmol, 1.7 M, 4.12 mL | C(C)(C)(C)[Li]
reactant | trimethyl borate | 7.30 mmol, 0.818 mL | B(OC)(OC)OC | C3H9BO3
reactant | Hexane | CCCCCC | C6H14
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine-3-yl boronic acid | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)B(O)O | C13H20BN3O2
